US04749813
100 g of iron fillings are heated to 95° C. in 300 ml of water, 5 ml of hydrochloric acid and 5 ml of dioxane in a stirred vessel, and 57 g of 2-nitro-5-methylbenzotrifluoride are added dropwise in the course of about 1 hour. The mixture is stirred for a further 2 hours, and a distillation is then carried out using steam. The organic material extracted with dichloromethane and re-distilled. 42 g (boiling point: 92°-95° C./20 mbar) of 2-trifluoromethyl-4-methylaniline are obtained.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | 2-nitro-5-methylbenzotrifluoride | 57 g | [N+](=O)([O-])C1=C(C=C(C=C1)C)C(F)(F)F | C8H6F3NO2
solvent | water | 300 ml | O | H2O
catalyst | iron | 100 g | [Fe] | Fe
product | 2-trifluoromethyl-4-methylaniline | 42 g | FC(C1=C(N)C=CC(=C1)C)(F)F | C8H8F3N
